US06573273B1
Using the general method of Example 149, 1-(4-aminobutyl)-2-pentyl-1H-imidazo[4,5-c]quinolin-4-amine (800 mg, 2.5 mmol) was reacted with phenyl isocyanate (0.26 mL, 2.5 mmol) to provide 299 mg of N-[4-(4-amino-2-pentyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea as an off white solid, m.p. 159.0-160.4° C. Analysis: Calculated for C26H32N6O2.1.0H2O: %C, 67.51; %H, 7.41; %N, 18.17; Found: %C, 67.73; %H, 7.33; %N, 17.97.

reactant | 1-(4-aminobutyl)-2-pentyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.5 mmol, 800 mg | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCCC | C19H27N5
reactant | phenyl isocyanate | 2.5 mmol, 0.26 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-[4-(4-amino-2-pentyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea | 299 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)NC2=CC=CC=C2)CCCCC | C26H32N6O
